US06130217
3-(5-Pyridin-4-yl-[1,2,4]oxadiazol-3-yl)phenol was prepared using 3-hydroxybenzamidoxime (3 g, 19.7 mM) and isonicotinyl chloride hydrochloride (3.51 g, 19.6 mM) in pyridine (15 mL) using Preparation 62 to provide 3.65 g of a brown precipitate; m.p., 145-146° C.

reactant | 3-hydroxybenzamidoxime | 19.7 mM, 3 g | OC=1C=C(C(N)=NO)C=CC1 | C7H8N2O2
reactant | isonicotinyl chloride hydrochloride | 19.6 mM, 3.51 g | Cl.C(C1=CC=NC=C1)Cl
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 3-(5-Pyridin-4-yl-[1,2,4]oxadiazol-3-yl)phenol | N1=CC=C(C=C1)C1=NC(=NO1)C=1C=C(C=CC1)O | C13H9N3O2
